Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
C5 of epoch, headache, nausea, vomiting and cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ is a ___ with a history of a tectal 
primary CNS lymphoma, who now has an aggressive non-Hodgkin's 
systemic lymphoma being treated with rituximab/EPOCH and IT 
chemotherapy prophylaxis, s/p Ommaya placement on ___, who 
is now admitted for C5 of DA-EPOCH and was found to have 
persistent headache in the past 2 days on admission coupled with 
cough,
nausea and vomiting. She was recently hospitalized for 
management of headache post IT-arac on ___.

Triggered ___ AM for hypotension. Received 1L NS with 
completion resolution of hypotension. Patient was asymptomatic. 
Blood culture was sent. 

24hrs Events: Headache resolved. No evidence of hypotension 
since ___. Now blood pressures are higher and c/o mild blurry 
vision of which improved with some artificial tear drops. No 
nausea or vomiting. Cough stable, does not feel short of breath. 
Stool x 1 on ___. Denies abdominal pain, cramping or diarrhea. 
No SOB, DOE, fever or shaking chills. 

ROS: Denies dizziness, chest pain, palpitations, presyncopal or 
syncopal episodes. Of note, she has a history of cough which 
lingered for about 1 month, went away completely and has now 
been back in the past 1 week prior to admission. Has been 
treated in the past for sinusitis but this does not feel like 
it. No sinus tenderness, runny nose or stuffy nose. Her appetite 
is good,
nausea now resolved. Denies mouth sores or difficulty 
swallowing. Notes numbness of her fingertips only which has not 
worsened since last cycle. Able to do fine motor movements. No 
bleeding, bruising or rashes.

A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY: ___ (formerly ___ is 
a
___ right-handed woman from ___, with a history of a
tectal primary CNS lymphoma, who now has an aggressive
non-Hodgkin's systemic lymphoma. She had:
(1) a stereotaxic mid-brain biopsy on ___,
(2) received 5 cycles of induction high-dose methotrexate
already,
(3) status post 8 cycles of maintenance high-dose methotrexate
until ___,
(4) status total left hip replacement on ___ for
osteonecrosis,
(5) biopsy of a cervical lymph node on the right side on 
___ at ___ that showed
aggressive non-Hodgkin's lymphoma, unclassified but intermediate
between diffuse large cell and Burkitt's lymphoma,
(6) admission to ___ Service on ___ for evaluation and
management of lymphoma with 39.4 WBC, 10.0 Hb, 29.9 Hct and 109
platelets, 
(7) lumbar puncture on ___ that showed ___ WBC, 473-550
RBC, 44 protein, and received one dose of IT methotrexate,
(8) started C1 EPOCH on ___,
(9) CSF showed 7 WBC, 473 RBC, and 44 protein, and received IT
methotrexate,
(10) lumbar puncture on ___ that showed 11 WBC, ___
RBC, 149 protein and 111 LDH, and received IT methotrexate,
(11) head MRI on ___ showed no gross lymphoma in the brain,
(12) received rituximab 100 mg on ___,
(13) received rituximab 600 mg on ___,
(14) received C2 EPOCH on ___,
(15) received IT methotrexate on ___,
(16) received IT liposomal cytarabine on ___,
(17) echocardiogram showed normal EF at 60%,
(18) received C3 EPOCH with rituximab and IT liposomal 
cytarabine on ___,
(19) received C4 EPOCH with rituximab and IT liposomal 
cytarabine on ___,
(20) Ommaya reservoir placement on ___, and
(21) admission to OMED Service from ___ to ___ because
of headache and vomiting after her Ommaya placement.
(22) received C4 IT liposomal cytarabine on ___
(23) received C5 IT liposomal cytarabine and rituxan on ___
(24) received C5 of EPOCH on ___

PAST MEDICAL HISTORY: 
-CNS lymphoma/systemic lymphoma as above
-Depression
-HSV infection during MTX treatment in the past
-GERD
-HTN
-Cold aggluitinin disease, noted during hospitalization
___
 
Social History:
___
Family History:
She has 6 healthy children and a nephew with a brain tumor.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.2 PO 124/72 78 20 100 RA 
WT: 170.79lbs
GEN: Pleasant, lying in bed comfortably
HEENT: Pupils 4 -->3 mm b/l, right scalp surgical incision
healing well w/o scabbing, no discharge or erythema. No sinus
tenderness or rhinnorhea
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops
LUNG: + mild cough during exam, no respiratory distress,
scattered rhonchi but no crackles or wheezes
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly
EXT: Warm, well perfused, no lower extremity edema
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses
NEURO: Alert, oriented, CN III-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes or skin eruptions
ACCESS: POC C/D/I. Omaya resevior w/o erythema, discharge or
tenderness

DISCHARGE PHYSICAL EXAM:
VS: TC 98.5 PO ___ 20 100%RA  
GEN: Pleasant, lying in bed comfortably
HEENT: Pupils 4-->3 mm b/l, right scalp surgical incision
healing well w/o scabbing, discharge or erythema. No sinus 
tenderness or rhinnorhea
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops
LUNG: No cough on exam; no respiratory distress; no crackles, 
wheezes or rhonchi
ABD: + bowel sounds, soft, nontender, nondistended, no
hepatomegaly or splenomegaly
EXT: Warm, well perfused, no lower extremity edema
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses
NEURO: Alert, oriented, CN III-XII intact, motor and sensory 
function grossly intact
SKIN: No significant rashes or skin eruptions
ACCESS: POC and Omaya w/o erythema, discharge or tenderness
 
Pertinent Results:
ADMISSION LABS:
___ 12:00PM   ___ PTT-22.3* ___
___ 12:00PM   PLT SMR-NORMAL PLT COUNT-209
___ 12:00PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-OCCASIONAL 
MACROCYT-2+ MICROCYT-NORMAL POLYCHROM-1+ OVALOCYT-OCCASIONAL 
SCHISTOCY-OCCASIONAL
___ 12:00PM   NEUTS-76* BANDS-0 LYMPHS-13* MONOS-10 EOS-1 
BASOS-0 ___ MYELOS-0 AbsNeut-7.98* AbsLymp-1.37 
AbsMono-1.05* AbsEos-0.11 AbsBaso-0.00*
___ 12:00PM   WBC-10.5*# RBC-3.09* HGB-11.1* HCT-34.9 
MCV-113* MCH-35.9* MCHC-31.8* RDW-19.9* RDWSD-83.4*
___ 12:00PM   ALBUMIN-3.8 CALCIUM-8.7 MAGNESIUM-2.0 URIC 
ACID-4.8
___ 12:00PM   ALT(SGPT)-20 AST(SGOT)-16 LD(LDH)-340* ALK 
PHOS-93 TOT BILI-0.3
___ 12:00PM   GLUCOSE-109* UREA N-20 CREAT-0.6 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14

DISCHARGE LABS
___ 12:00AM BLOOD WBC-3.4* RBC-2.73* Hgb-9.7* Hct-29.6* 
MCV-108* MCH-35.5* MCHC-32.8 RDW-16.7* RDWSD-66.4* Plt ___
___ 12:00AM BLOOD Neuts-86* Bands-4 Lymphs-10* Monos-0 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-3.06 AbsLymp-0.34* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Plt Smr-LOW Plt ___
___ 12:00AM BLOOD Glucose-159* UreaN-15 Creat-0.4 Na-138 
K-3.3 Cl-104 HCO3-24 AnGap-13
___ 12:00AM BLOOD ALT-16 AST-15 LD(LDH)-360* AlkPhos-50 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.1* Calcium-7.9* Phos-2.5* 
Mg-2.0

IMAGING:

CT HEAD ___

FINDINGS:  
  
Again seen is a right frontal approach ventriculostomy catheter, 
unchanged in position with the tip in the left lateral ventricle 
near the foramen of ___. The ventricles demonstrate minimal 
progressive increase in measurements over the past 2 exams, with 
the right frontal horn measuring 11 mm (previously 11 mm and 10 
mm) and the third ventricle measuring 5 mm (previously 5 mm and 
3 mm). It is unclear if these differences are due to differences 
in planes of scanning versus true minimal increase in size.  
There is no evidence of infarction, hemorrhage, edema, or mass. 
  
There is no evidence of fracture.  There is a small amount of 
fluid layering in the left maxillary sinus.  The other 
visualized paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION: 
  
1. Unchanged position of a right frontal approach 
ventriculostomy catheter, with the tip terminating in the left 
lateral ventricle near the foramen of ___. 
2. Minimal progressive increase in ventricular measurements 
compared to ___ and ___, unclear if due to true 
minimally 
increased size versus differences in planes of scanning. 

CXR (PA/LATERAL) ___

IMPRESSION:  
  
In comparison with the study of ___, there are lower 
lung volumes. This probably accounts for the increased 
prominence of the transverse diameter of the heart. Retrocardiac 
opacification most likely represents atelectatic changes. 
However, in the appropriate clinical setting, the possibility of 
a superimposed pneumonia would have to be considered. No 
evidence of vascular congestion.  Central catheter extends to 
the mid to lower portion of the SVC. 
 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___  with a history of a tectal 
primary CNS lymphoma, who now has an aggressive non-Hodgkin's 
systemic lymphoma being treated with rituximab/EPOCH and IT 
chemotherapy prophylaxis, s/p Ommaya placement ___,
presenting for initiation of C5 of EPOCH but on admission noted 
to have two days of acute headache, nausea and vomiting but 
without evidence of acute process on CT head.

C5D6 - ___

ACTIVE ISSUES:

#Hypotension: Asymptomatic and resolved, noted 70/40 x1 on 
___. Unclear etiology but likely dehydration as weight was 
down 3lbs from baseline on ___. No evidence of GI loss besides 
diarrhea the day prior. Eating and drinking well. Did not 
receive diuresis this cycle which is often typical with EPOCH 
regimen. There's always concern for infection but leukocytosis 
resolved as below, no bandemia and
patient has had no fevers, chills or rigors. Blood culture ___ 
without growth. ECG ___ unremarkable. Interestingly, patient 
now developed higher blood pressures as below and was initiated 
on anti-HTN, see below

#Headache: Resolved. Differential includes possible post 
procedural headache vs infectious complication vs new mechanical 
obstruction from recently omaya placement, though ___ is 
reassuring against hemorrhage or ventricular obstruction.
Headache occurred within 48 hours following IT liposomal 
cytarabine on ___ so most likely she experienced chemical 
meningitis symptoms from the IT-arac. Neuro-onc agrees that her 
symptoms likely chemical meningitis as well, see Dr. ___ 
note on ___. Her CSF from ___ did not show evidence of 
infection or malignant cells. Also, no fevers, chills or rigors 
so less likely infectious etiology. Did have leukocytosis on 
admission but now resolved. No bandemia on differential. Normal 
neuro exam and mental status. Discharged with dexamethasone 4mg 
BID and Tylenol PRN, monitor closely outpatient. Will likely 
need taper of her steroids outpatient.

#Hyperglycemia/Glucosuria: Noted in the setting steroids 
initiation as part of chemotherapy regimen. Of note, patient has 
been on dexamethasone 4mg BID outpatient and it is unclear if 
her glucose levels were elevated. She was initiated on insulin 
sliding scale on ___ while in-house as her FBG were ranging 
between high 100s to low 300s. Discharged with glucometer and 
supplies needed to check glucose pre-meals. Advised to call if 
glucose consistently > 150-200. ___ likely need an 
endocrinologist follow up outpatient as she is at risk for 
steroid-induced DM. 

#HTN: Previously on amlodipine 10mg PO daily, discontinued given 
stable pressures per outpatient team; noted uptrend of blood 
pressures with a peak SBP of 178 while in-house; therefore, 
started on amlodipine 5mg po daily on ___. Some mild 
improvement at discharge. 

#Blurred Vision/Dry Eyes: C/o dry eyes and blurred vision on 
___ evening but reports this issue has been ongoing but did 
not mention as she was hoping it will go away. Blurred vision 
may be a symptom of HTN. Prior to discharge, reported that these 
symptoms were significantly improved. No other associated visual 
disturbances. Was given artificial drops to help with dry eyes. 
Follow up appointment with Dr. ___ on ___ at 2:15pm

#Constipation: Stool x 1 on ___ prior to discharge, continue 
with bowel regimen. 

#Cough: Mild at discharge. Has had ongoing cough which has been 
present for over a month per outpatient clinic on ___ of 
which was attributed to sinusitis per evidence on Sinus CT - of 
note did complete a course of antibiotics with augmentin at that 
time. On admission, patient reports that cough resolved but 
returned about 1 week ago; denies sick contacts, fevers, chills, 
rigors, sinus tenderness or rhinorrhea. Occasionally does cough 
up yellow sputum but none since admission. CXR on admission 
showed retrocardiac opacification which most likely represents 
atelectatic changes but cannot rule out superimposed PNA.
-Did not receive empiric ABX
-consider NCCT chest if symptoms worsens, monitor closely 
outpatient 

#Nausea/Vomiting: Noted on admission but none since then. Likely 
chemotherapy effect as last received IT-ara-c on ___ and may 
evolve with current cycle of EPOCH. Continues w/ zofran and 
ativan for relief as needed, monitor closely outpatient.

CHRONIC ISSUES/RESOLVED:

#High grade B-cell lymphoma: Currently being treated with 
DA-EPOCH now s/p C5 of regimen at dose level 2; last received 
rituximab on ___ and ppx IT liposomal cytarabine (C5D1 
___. Continued on prophylaxis with acyclovir, bactrim
(changed to suspension for ease of swelling recently) and 
lamivudine per primary oncologist, starting neupogen on ___

#CNS lymphoma: Stable, getting treatment as above. Missed her 
outpatient appointment with Dr. ___ on ___ but received 
last dose of IT-arac as above. No evidence of malignant cells on 
most recent cytology on ___.

#Leukocytosis: Resolved, likely neupogen effect. Patient with 
WBC of 65 on ___ and 10.5. Infectious w/u negative

#Hepatitis B: HBsAb and HBcAb positive. On lamuvidine 100mg PO 
daily, continue for 6 months following treatment for lymphoma. 

#Depression: Continued on home regimen of fluoxetine.

#HLD: restarted simvastatin at discharge, held during 
chemotherapy infusion

#History of HSV Infection: Noted during MTX treatment. No 
evidence of active infection on admission, continue with 
acyclovir 400mg TID 

Transitional Issues:
#HTN: restarted amlodipine 5mg po daily; ___ to check BPs at 
home
#Hyperglycemia: No insulin at discharge, ___ to check glucose 
pre-meals at home, patient has necessary supplies
#NHL/CNS Lymphoma: Neupogen to start on ___, s/p C5 of 
EPOCH, continues on dex 4mg PO BID at discharge
#Cough: Retrocardic opacity on CXR ___, monitor closely for 
respiratory exacerbations outpatient.

Prophylaxes:
# Access: ___ 
# Contact: ___, ___
# Disposition: Discharged ___ with follow up on ___ with Dr. 
___
# Code Status: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Acyclovir 400 mg PO Q8H 
3. Dexamethasone 4 mg PO BID 
4. Filgrastim 480 mcg SC Q24H 
5. FLUoxetine 40 mg PO DAILY 
6. LaMIVudine 100 mg PO DAILY 
7. Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain 
8. Simvastatin 40 mg PO QPM 
9. Sulfatrim (sulfamethoxazole-trimethoprim) 400-80 (10mL) mg 
oral DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
RX *dextran 70-hypromellose (PF) [Artificial Tears (PF)] 0.1 
%-0.3 % ___ drops in each eye four times a day Disp #*1 Bottle 
Refills:*1 
3.  Docusate Sodium 100 mg PO BID:PRN constipation 
do not take if ___ have diarrhea 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*1 
4.  Fora V10-V12-D10-D20 (lancets-blood glucose strips) 30 gauge 
miscellaneous use as directed  
5.  FreeStyle Test (blood sugar diagnostic)    miscellaneous use 
as directed  
6.  Glucocard 01 Meter (blood-glucose meter) 1 application 
miscellaneous check glucose pre-meal  
7.  Senna 8.6 mg PO BID:PRN constipation 
do not take if ___ have diarrhea 
RX *sennosides [Senexon] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*1 
8.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
9.  Acyclovir 400 mg PO Q8H  
10.  Dexamethasone 4 mg PO BID  
11.  Filgrastim 480 mcg SC Q24H 
start on ___  
12.  FLUoxetine 40 mg PO DAILY  
13.  LaMIVudine 100 mg PO DAILY  
14.  Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain  
15.  Simvastatin 40 mg PO QPM  
16.  Sulfatrim (sulfamethoxazole-trimethoprim) 400-80 (10mL) mg 
oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Tectal primary CNS Lymphoma/NHL
Headache
Hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ were admitted to receive your cycle 5 of chemotherapy 
(EPOCH) for your lymphoma treatment. ___ had headache on 
admission which we thought was related to your intrathecal 
chemotherapy ___ received prior to your hospitalization. ___ 
also had elevated blood sugars and we think that this is as a 
result of your steroid. Please follow up with your outpatient 
team as below. 

It was a pleasure taking care of ___.
 
Followup Instructions:
___